US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(4-methoxyphenyl)imidazolidin-2-one
The compound was synthesized as hydrochloride salt starting from 5-aminobenzimidazole (0.266 g, 2 mmol), di(1H-imidazol-1-yl)methanone (0.052 g, 2 mmol), TEA (0.799 mL, 6 mmol), aminomethyl-(4-methoxy)phenyl ketone hydrochloride (0.403 g, 2 mmol), TEA (0.558 mL, 4 mmol), PdC (10%, 0.02 g) as described in method 1.

reactant | 5-aminobenzimidazole | 2 mmol, 0.266 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | di(1H-imidazol-1-yl)methanone | 2 mmol, 0.052 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | aminomethyl-(4-methoxy)phenyl ketone hydrochloride | 2 mmol, 0.403 g | Cl.NCC1=C(C=CC(=C1)OC)C(=O)C1=C(C=C(C=C1)OC)CN
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(4-methoxyphenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC=C(C=C2)OC)=O | C17H16N4O2
